US05679696
Potassium carbonate (0.43 g) and water (2 mL) are added to a solution of methyl 3-Cyclopentyloxy-4-trifluoromethoxybenzoate (0.78 g) in methanol (10 mL) and the mixture is heated under reflux for 2 hours. Methanol is evaporated off under reduced pressure, and the crude material is partitioned between water (75 mL) and ethyl acetate (75 mL). The organic layer is separated, and the aqueous layer is acidified with hydrochloric acid (2N) and extracted with ethyl acetate (2×75 mL). The combined organic extracts are dried over magnesium sulfate and evaporated under reduced pressure, to give 3-cyclopentyloxy-4-trifluoromethoxybenzoic acid (0.53 g), in the form of a white solid, m.p. 116°-118° C. [NMR (CDCl3): 7.72(d, 1H,J=2 Hz); 7.7(dd, 1H,J=8 Hz, 2 Hz); 7.3(d, 1H,J=8 Hz); 4.9(m, 1H,);2.0-1.6(m,8H)].

reactant | Potassium carbonate | 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 mL | O | H2O
reactant | methyl 3-Cyclopentyloxy-4-trifluoromethoxybenzoate | 0.78 g | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1OC(F)(F)F | C14H15F3O4
solvent | methanol | 10 mL | CO | CH4O
product | 3-cyclopentyloxy-4-trifluoromethoxybenzoic acid | 0.53 g | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1OC(F)(F)F | C13H13F3O4
